US07550503B2
(8E,12E,14E)-7-Acetoxy-6,16-dihydroxy-6,10,12,16,20-pentamethyl-3,21-bis(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide
A solution of (8E,12E,14E)-7-acetoxy-3,6,16,21-tetrahydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (221 mg, 0.4 mmol), N,N-dimethylaminopyridine (25 mg, 0.2 mmol) and triethylamine (613 mg, 6 mmol) in dichloromethane (7 mL) was cooled to 5° C., a solution of chlorotriethylsilane (609 mg, 4 mmol) in dichloromethane (3 mL) was added dropwise thereto, and the reaction mixture was stirred at room temperature for one hour. The reaction mixture was diluted with ethyl acetate, washed with water and a saturated aqueous solution of sodium bicarbonate, dried over anhydrous magnesium sulfate and evaporated. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 50 μm; ethyl acetate-hexane, 1:9 to 1:4 to 1:3) to give the title compound (320 mg, quantitative) as a colorless oil.

reactant | (8E,12E,14E)-7-acetoxy-3,6,16,21-tetrahydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.4 mmol, 221 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)(C)O)\C)O)(C)O | C30H48O9
reactant | triethylamine | 6 mmol, 613 mg | C(C)N(CC)CC | C6H15N
reactant | chlorotriethylsilane | 4 mmol, 609 mg | Cl[Si](CC)(CC)CC | C6H15ClSi
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-7-Acetoxy-6,16-dihydroxy-6,10,12,16,20-pentamethyl-3,21-bis(triethylsiloxy)-18,19-epoxytricosa-8,12,14-trien-11-olide | 320 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](CC)(CC)CC)C)O1)(C)O)\C)O[Si](CC)(CC)CC)(C)O | C42H76O9Si2
